data/polar.json
{"reaction_name": "Michael addition", "rsmi": "[CH3:3][CH2:9][O:7][C:18]([CH:4]=[C:10]([CH3:19])[N:26]=[N:13][C:5](=[O:14])[NH:17][c:20]1[cH:22][cH:11][cH:21][cH:12][cH:23]1)=[O:15].[cH:1]1[c:25]2[cH:24][cH:8][cH:2][cH:16][c:28]2[cH-:6][cH:27]1>>[CH:1]1=[CH:27][CH:6]([CH:4]([C:10]([CH3:19])=[N:26][N:13]=[C:5]([O-:14])[NH:17][c:20]2[cH:22][cH:11][cH:21][cH:12][cH:23]2)[C:18]([O:7][CH2:9][CH3:3])=[O:15])[c:28]2[cH:16][cH:2][cH:8][cH:24][c:25]21", "epd": [["LP-/Sigma+", [6], [6, 4]], ["Pi-/Pi+", [4, 10], [10, 26]], ["Pi-/Pi+", [26, 13], [13, 5]], ["Pi-/LP+", [5, 14], [14]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:2](=[O:16])([O:30][CH2:4][c:14]1[cH:20][cH:6][cH:10][cH:9][cH:23]1)[N:33]=[N:32][C:3](=[O:17])[O:31][CH2:5][c:15]1[cH:21][cH:7][cH:11][cH:8][cH:22]1.[CH:1]([C:24](=[O:25])[c:27]1[cH:12][cH:35][c:26]([N:34]([CH3:28])[CH3:29])[cH:36][cH:13]1)=[S:37]([CH3:18])[CH3:19]>>[CH:1]([C:24](=[O:25])[c:27]1[cH:12][cH:35][c:26]([N:34]([CH3:28])[CH3:29])[cH:36][cH:13]1)([N:32]([C:3](=[O:17])[O:31][CH2:5][c:15]1[cH:21][cH:7][cH:11][cH:8][cH:22]1)[N:33]=[C:2]([O-:16])[O:30][CH2:4][c:14]1[cH:20][cH:6][cH:10][cH:9][cH:23]1)[S+:37]([CH3:18])[CH3:19]", "epd": [["Pi-/Sigma+", [1, 37], [1, 32]], ["Pi-/Pi+", [32, 33], [33, 2]], ["Pi-/LP+", [2, 16], [16]]]}
{"reaction_name": "Glycosyl orthoester rearrangement", "rsmi": "[CH3:1][O:9][C:12]([O:4][CH:13]1[O:5][CH2:7][CH2:3][CH2:8][CH2:6]1)([O:10][CH3:2])[CH3:11]>>[CH3:1][O:9][CH:13]1[O:5][CH2:7][CH2:3][CH2:8][CH2:6]1.[CH3:2][O:10][C:12](=[O:4])[CH3:11]", "epd": [["Sigma-/Pi+", [4, 13], [4, 12]], ["Sigma-/Sigma+", [9, 12], [9, 13]]]}
{"reaction_name": "Crotylboration", "rsmi": "[CH2:1]([B:7]([O:10][CH3:2])[O:11][CH3:3])[CH:12]=[CH:4][CH3:8].[O:5]=[CH:9][CH3:6]>>[CH2:1]([CH:9]([O:5][B:7]([O:10][CH3:2])[O:11][CH3:3])[CH3:6])[CH:12]=[CH:4][CH3:8]", "epd": [["Pi-/Sigma+", [5, 9], [5, 7]], ["Sigma-/Sigma+", [1, 7], [1, 9]]]}
{"reaction_name": "Pinner synthesis", "rsmi": "[CH3:1][C:2]#[N:3].[CH3:4][O:5][H:6].[Cl:7][H:8]>>[CH3:1][C:2](=[N+:3]([H:8])[H:6])[O:5][CH3:4].[Cl-:7]", "epd": [["LP-/Sigma+", [3], [3, 8]], ["Sigma-/LP+", [7, 8], [7]], ["LP-/Sigma+", [5], [2, 5]], ["Pi-/Sigma+", [2, 3], [3, 6]], ["Sigma-/LP+", [5, 6], [5]]]}
{"reaction_name": "Phosphine-mediated deoxygenation", "rsmi": "[S:7](=[O:20])([CH3:22])[CH3:23].[cH:1]1[c:8]([P:21]([c:9]2[cH:3][cH:13][cH:18][cH:14][cH:4]2)[c:10]2[cH:5][cH:15][cH:19][cH:16][cH:6]2)[cH:2][cH:12][cH:17][cH:11]1>>[S:7]([CH3:22])[CH3:23].[cH:1]1[c:8]([P:21]([c:9]2[cH:3][cH:13][cH:18][cH:14][cH:4]2)([c:10]2[cH:5][cH:15][cH:19][cH:16][cH:6]2)=[O:20])[cH:2][cH:12][cH:17][cH:11]1", "epd": [["LP-/Sigma+", [21], [20, 21]], ["Sigma-/LP+", [7, 20], [20]], ["LP-/Pi+", [20], [20, 21]], ["Pi-/LP+", [7, 20], [7]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH3:2][CH2:19][O:27][C:10](=[O:7])[C-:12]([F:9])[C:11](=[O:6])[O:28][CH2:20][CH3:3].[cH:1]1[cH:4][cH:18][cH:8][c:13]2[c:5]1[N+:24]([CH3:15])=[CH:17][C:16]2=[CH:14][c:23]1[cH:21][cH:25][cH:29][cH:26][cH:22]1>>[cH:1]1[cH:4][cH:18][cH:8][c:13]2[c:5]1[n:24]([CH3:15])[cH:17][c:16]2[CH:14]([C:12]([F:9])([C:10](=[O:7])[O:27][CH2:19][CH3:2])[C:11](=[O:6])[O:28][CH2:20][CH3:3])[c:23]1[cH:21][cH:25][cH:29][cH:26][cH:22]1", "epd": [["LP-/Sigma+", [12], [12, 14]], ["Pi-/Pi+", [14, 16], [16, 17]], ["Pi-/LP+", [17, 24], [24]]]}
{"reaction_name": "Paal–Knorr pyrrole formation", "rsmi": "[CH3:1][O:2][CH2:3][C:4](=[O:5])[CH:6]([H:24])[CH:20]([H:25])[C:7](=[O:8])[CH3:9].[N:10]([H:21])([H:22])[H:23]>>[CH3:1][O:2][CH2:3][c:4]1[n:10]([H:23])[c:7]([CH3:9])[cH:20][cH:6]1.[O:5]([H:21])[H:24].[O:8]([H:22])[H:25]", "epd": [["LP-/Sigma+", [10], [4, 10]], ["Pi-/LP+", [4, 5], [5]], ["LP-/Sigma+", [5], [5, 21]], ["Sigma-/LP+", [10, 21], [10]], ["Sigma-/LP+", [4, 5], [5]], ["LP-/Sigma+", [5], [5, 24]], ["Sigma-/LP+", [6, 24], [6]], ["Pi-/LP+", [7, 8], [8]], ["LP-/Sigma+", [8], [8, 22]], ["Sigma-/LP+", [10, 22], [10]], ["LP-/Sigma+", [10], [7, 10]], ["Sigma-/LP+", [7, 8], [8]], ["LP-/Sigma+", [8], [8, 25]], ["Sigma-/LP+", [20, 25], [20]], ["LP-/Pi+", [6], [4, 6]], ["LP-/Pi+", [20], [7, 20]]]}
{"reaction_name": "Cyclopropylcarbinyl rearrangement", "rsmi": "[CH:1]1([CH2+:2])[CH2:3][CH2:4]1>>[CH:1](=[CH2:2])[CH2:3][CH2+:4]", "epd": [["Sigma-/Pi+", [1, 4], [1, 2]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[O:1]=[S:26](=[O:2])([N:22]([F:20])[S:25](=[O:3])(=[O:4])[c:34]1[cH:9][cH:29][cH:16][cH:32][cH:12]1)[c:35]1[cH:10][cH:30][cH:17][cH:31][cH:11]1.[c:5]1([S:21](=[O:27])(=[O:28])[CH-:36][c:13]2[cH:7][cH:23][cH:33][cH:24][cH:8]2)[cH:14][cH:18][cH:6][cH:19][cH:15]1>>[O:1]=[S:26](=[O:2])([N-:22][S:25](=[O:3])(=[O:4])[c:34]1[cH:9][cH:29][cH:16][cH:32][cH:12]1)[c:35]1[cH:10][cH:30][cH:17][cH:31][cH:11]1.[c:5]1([S:21](=[O:27])(=[O:28])[CH:36]([c:13]2[cH:7][cH:23][cH:33][cH:24][cH:8]2)[F:20])[cH:14][cH:18][cH:6][cH:19][cH:15]1", "epd": [["LP-/Sigma+", [36], [36, 20]], ["Sigma-/LP+", [20, 22], [22]]]}
